reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[N:1](=[C:2]([C:3](=[N:4]\[C:5](=[N:6]\[H:11])[H:10])/[H:9])\[H:8])\[H:7]>>[N:1](=[C:2]1\[C:3]([H:8])([H:9])[N:4]=[C:5]([H:10])[N:6]1[H:11])\[H:7],36.837196836612904
[N:1]([c+:2]1[n-:3][c:4]([H:9])[n:5][o:6]1)([H:7])[H:8]>>[N:1]([C:2]([N:3]1[C:4]([H:9])=[N:5]1)=[O:6])([H:7])[H:8],64.65258149913429
[C:1]([C@:2]1([H:12])[O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([H:13])[C@:6]1([O:7][H:11])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],77.36088704552736
[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12]>>[C+:1](=[C:3]([O-:2])[C:4]([O:5][C:6]([H:7])([H:11])[H:12])([H:9])[H:10])[H:8],108.52130155281601
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N-:1]([C+:6]1[C:2]([H:9])=[O+:3][C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[N-:7]1)[H:8],112.63710571290001
[O:1]=[C:2]([O+:6]=[C:5]([N:4]([C-:3]([H:8])[H:9])[H:10])[H:11])[H:7]>>[O:1]=[C:2]([C:3]([N:4]([C:5](=[O:6])[H:11])[H:10])([H:8])[H:9])[H:7],14.9644544718563
[O:1]1[C@:2]2([H:7])[C:3]([H:8])([H:9])[O:4][C@@:5]1([H:10])[O:6]2>>[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],18.8259036136508
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][H:11])([H:7])([H:8])[H:9].[C:3](=[C:4]([H:12])[H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:10],63.5549443445508
[O:1]([C@@:2]1([H:8])[C@@:3]2([H:9])[C:4]([H:10])([H:11])[O:5][C@@:6]12[H:12])[H:7]>>[O:1]([C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[O+:5]=[C-:6]1)([H:8])[H:12])[H:7],54.0402526211085
[C:1]([C:2]([C:3]1([H:11])[C-:4]([H:13])[O+:5]=[C:6]1[H:14])([H:10])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C@@:3]2([H:11])[C:4]([H:12])([H:13])[O:5][C@@:6]12[H:14])([H:7])([H:8])[H:9],41.89390733183931
[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C-:5]=[O+:6][C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10],118.119994787791
[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:15][H:16],89.3852488877944
[C:1]([N:2](/[C:3](=[N:4]/[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],42.6222528938086
[O:1]([C:2]([C:3](=[C:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],7.265758485441808
[C:1]([O:5][H:13])([H:6])([H:7])[H:8].[C:2]1([H:9])=[C:4]([H:12])[C:3]1([H:10])[H:11]>>[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][H:13])[H:12])([H:6])([H:7])[H:8],72.63065871885462
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:11])[C@@:3]([C:5]#[C:6][H:12])([H:10])[O:4]1)([H:7])([H:8])[H:9],91.0069290761928
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1]1([H:8])[C:2]([H:9])([H:12])[O:3][C:4]([H:10])([H:11])[C:5]([H:13])=[C:6]=[N:7]1,96.6839662019991
[C:1](#[C:2][C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:1](=[C:2])([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7],59.8335532062932
[C:2](=[C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])[H:11])([H:8])[H:9].[O:1]([H:7])[H:10]>>[O:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],56.664843708727005
[C:1]([C:2](=[O:3])[C:4]([O:5][H:11])=[C:6]([H:10])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],55.99358131202751
[C:1]12=[C:3]3[C@@:2]1([H:5])[C@:4]23[H:6]>>[C:1](#[C:2][H:5])[C:3]#[C:4][H:6],23.008436591268094
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[C:5]([H:15])[H:16])[H:14])[H:11])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:13])[H:17],71.5202423978759
[C:1]([C:2](=[C:6]=[C:7]([C:4]1([H:12])[O:3][O:5]1)[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],41.941665094366996
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5][O:6][H:15])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9],29.409538373946404
[N:1](=[C:2]=[N:3][N:4]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],41.657187828638804
[C:1]([C:4]([C:2](=[O:3])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],86.79202609466188
[N:1]([C:3]1=[N:4][C@:2]1([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:9])([H:7])[H:8],80.32308018854519
